US05900475
Preparation of (3-chloropropyl)cyclohexyldimethylammonium bromide
A one-liter, 3-necked, Morton flask equipped with an air condenser and a magnetic stirring plate was charged with N,N-dimethylcyclohexylamine (210.06 grams, 1.65 moles), 1-bromo-3-chloropropane (259.99 grams, 1.65 moles) and methanol (250 mL). Reaction was maintained at 65° C. for 24 hours. Methanol was removed by rotary evaporation under reduced pressure to yield a brown sludge. To the sludge was added tert-butylmethylether (600 ml) causing an oil to form. The liquid phase was decanted from the oil and a second portion of methyl-tert-butylether (600 ml) was added. The mixture was stirred and liquid phase was decanted off from a thick sludge. To the sludge was added diethylether (600 mL) causing a white, semi-solid layer to form. The mixture was stirred and a liquid phase was removed. A white solid was placed in a vacuum oven at 35° C. for 24 hours. Yield 404.9 grams (1.42 molest 85%)

reactant | N,N-dimethylcyclohexylamine | 1.65 moles, 210.06 grams | CN(C)C1CCCCC1 | C8H17N
reactant | 1-bromo-3-chloropropane | 1.65 moles, 259.99 grams | BrCCCCl | C3H6BrCl
reactant | methanol | 250 mL | CO | CH4O
solvent | tert-butylmethylether | 600 ml | C(C)(C)(C)OC | C5H12O
product | (3-chloropropyl)cyclohexyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)C1CCCCC1 | InChI=1S/C11H23ClN.BrH/c1-13(2,10-6-9-12)11-7-4-3-5-8-11;/h11H,3-10H2,1-2H3;1H/q+1;/p-1
